US06642249B2
A solution of 4-(3-oxo-1,4-dihydro-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile (0.100 g, 0.33 mmol) in DMSO (2 ml) was stirred vigorously at room temperature and air was flushed over the solution. After 48 h the precipitation was filtered, washed with toluen and dried. The crude product recrystallized from toluene to yield 4-(3-oxo-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile (0.036 g): 1H NMR (400 MHz, CDCl3) δ 8.65 (1H, s), 8.53 (1H, d), 8.38 (2H, d), 7.72 (2H, d), 7.66 (2H, t), 7.58-7.62 (1H, m); ESI MS m/z 304 (M+H+).

reactant | 4-(3-oxo-1,4-dihydro-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile | 0.33 mmol, 0.100 g | O=C1C2=C(NN1C1=CC=C(C#N)C=C1)C=1C=CC=CC1SC2 | C17H11N3OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 4-(3-oxo-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile | 0.036 g | O=C1C=2C(=NN1C1=CC=C(C#N)C=C1)C=1C=CC=CC1SC2 | C17H9N3OS
